* # FILE NAME: /NFS/STAK/STUDENTS/B/BRANAUGJ/CADENCE/SIMULATION/NOR2/           
* HSPICES/SCHEMATIC/NETLIST/NOR2.C.RAW
* NETLIST OUTPUT FOR HSPICES.
* GENERATED ON FEB 3 16:22:30 2014
   
* FILE NAME: ECE471_LIB_NOR2_SCHEMATIC.S.
* SUBCIRCUIT FOR CELL: NOR2.
* GENERATED FOR: HSPICES.
* GENERATED ON FEB  3 16:22:30 2014.

VN2 NET6 IN_B 0
VN1 NET8 IN_A 0
VP2 NET10 IN_B 0
VP1 NET12 IN_A 0
MP3 NET19 OUT VDD! VDD!  pmos  L=1.76e-08 W=6.4e-08 AD=2.56e-15 AS=2.56e-15 
+PD=1.44e-07 PS=1.44e-07 M=1 
MP2 NET34 OUT NET19 NET19  pmos  L=1.76e-08 W=6.4e-08 AD=2.56e-15 AS=2.56e-15 
+PD=1.44e-07 PS=1.44e-07 M=1 
MP1 NET27 NET12 VDD! VDD!  pmos  L=1.76e-08 W=6.4e-08 AD=2.56e-15 AS=2.56e-15 
+PD=1.44e-07 PS=1.44e-07 M=1 
MP0 OUT NET10 NET27 NET27  pmos  L=1.76e-08 W=6.4e-08 AD=2.56e-15 AS=2.56e-15 
+PD=1.44e-07 PS=1.44e-07 M=1 
MN3 NET34 OUT GND! GND!  nmos  L=1.76e-08 W=3.2e-08 AD=1.28e-15 AS=1.28e-15 
+PD=1.12e-07 PS=1.12e-07 M=1 
MN2 NET34 OUT GND! GND!  nmos  L=1.76e-08 W=3.2e-08 AD=1.28e-15 AS=1.28e-15 
+PD=1.12e-07 PS=1.12e-07 M=1 
MN0 OUT NET8 GND! GND!  nmos  L=1.76e-08 W=3.2e-08 AD=1.28e-15 AS=1.28e-15 
+PD=1.12e-07 PS=1.12e-07 M=1 
MN1 OUT NET6 GND! GND!  nmos  L=1.76e-08 W=3.2e-08 AD=1.28e-15 AS=1.28e-15 
+PD=1.12e-07 PS=1.12e-07 M=1 
